US05807859
0.66 g of 80% sodium hydride is added, under an argon atmosphere, to a stirred solution of 0.96 g of 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 50 ml of dimethylformamide. The stirring is continued for 15 minutes at a temperature in the region of 20° C., followed by addition of 0.56 ml of trimethylsilyl chloride and the mixture is left stirring for 30 minutes. 0.44 ml of 1-bromo-3-chloropropane is then added and the stirring is continued for 25 minutes. 7.2 ml of a 2.78N solution of dimethylamine in ethyl ether are then added and the final mixture is left to react for one week at a temperature in the region of 20° C. The reaction mixture is treated with 10 ml of water and 0.5 ml of acetic acid, then concentrated on a rotary evaporator. The evaporation residue is triturated with 60 ml of isopropanol and filtered. The filtrate is concentrated on a rotary evaporator and the crude product is first purified by chromatography on a column of silica (100 g), eluting under a pressure of 0.5 bar with a mixture of chloroform, methanol and 28% aqueous ammonia (48/6/1 by volume). The product obtained (0.7 g) is then purified by treatment with 0.07N hydrochloric acid (27 ml), washing of the aqueous phase with dichloromethane (2×20 ml), basifying of the aqueous phase using concentrated sodium hydrogen carbonate solution and extraction of the alkaline phase with dichloromethane (3×25 ml) and then with chloroform (50 ml). The organic phases are combined, dried over magnesium sulphate, filtered and evaporated on a rotary evaporator. The evaporation residue is triturated with 30 ml of isopropyl ether, filtered and the solid obtained is dried at 60° C. under vacuum (1 mmHg; 0.13 kPa). 0.28 g of 10-(3-dimethylaminopropyl)-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained in the form of a white solid melting at about 195° C. (Analysis, % calculated C: 70.78, H: 6.88, N: 17.38, O: 4.96, % found C: 70.5, H: 7.3, N: 16.8).

reactant | sodium hydride | 0.66 g | [H-].[Na+]
reactant | 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.96 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
reactant | trimethylsilyl chloride | 0.56 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1-bromo-3-chloropropane | 0.44 ml | BrCCCCl | C3H6BrCl
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 10-(3-dimethylaminopropyl)-10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.28 g | CN(CCCC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C)C | C19H22N4O
